US06229011B1
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[2,6-bis-(1-methylethyl)phenyl]carbonyl]-L-phenylalanine methyl ester was prepared from 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester and 2,6-bis-(1-methylethyl)benzoic acid using the general procedure described in example 3. LR MS: 555 (M+).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | 2,6-bis-(1-methylethyl)benzoic acid | CC(C)C1=C(C(=O)O)C(=CC=C1)C(C)C | C13H18O2
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[2,6-bis-(1-methylethyl)phenyl]carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1=C(C=CC=C1C(C)C)C(C)C)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C30H32Cl2N2O4
